US04582849
16.7 g (0.1 mol) of dichloromaleic anhydride and 20.5 g (0.1 mol) of 2-methyl-3-(4-tert.-butylphenyl)-propylamine are stirred in 100 ml of glacial acetic acid under reflux for 4 hours. 100 ml of water are added, the oil which has separated out is extracted with methylene chloride, the methylene chloride phase is concentrated and the residue is recrystallized from ethanol. 14.6 g (41.2% of theory) of dichloromaleic acid N-[2-methyl-3-(4-tert.-butylphenyl)-propyl]-imide of melting point 64°-65° C. are obtained.

reactant | dichloromaleic anhydride | 0.1 mol, 16.7 g | Cl/C/1=C(/C(=O)OC1=O)\Cl | C4Cl2O3
reactant | 2-methyl-3-(4-tert.-butylphenyl)-propylamine | 0.1 mol, 20.5 g | CC(CN)CC1=CC=C(C=C1)C(C)(C)C | C14H23N
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | dichloromaleic acid N-[2-methyl-3-(4-tert.-butylphenyl)-propyl]-imide | 14.6 g, 41.2% | CC(CN=C(\C(=C(/C(=O)O)\Cl)\Cl)O)CC1=CC=C(C=C1)C(C)(C)C | C18H23Cl2NO3
